US07468371B2
N-prop-2-ynylpyrimidin-2-amine
A mixture of 2-aminopyrimidine (2 g, 20.67 mmol) and propargyl bromide (23 mL, 20.67 mmol) in ethanol (30 mL) was heated to reflux for about 23 hours. The formed precipitate was collected by filtration, washed with ethanol and was recrystallized from ethanol. To the vacuum dried crystals was added water (10 mL) and 10% aqueous sodium hydroxide (5 mL) and the mixture was stirred at room temperature for about 30 min. The solid was collected by filtration, washed with water and was re-crystalized from water to provide Example 642. MS (ESI): m/z 134 (M+H)+.

reactant | 2-aminopyrimidine | 20.67 mmol, 2 g | NC1=NC=CC=N1 | C4H5N3
reactant | propargyl bromide | 20.67 mmol, 23 mL | C(C#C)Br | C3H3Br
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | N-prop-2-ynylpyrimidin-2-amine | C(C#C)NC1=NC=CC=N1 | C7H7N3
